US05434186
A mixture of 12.2 g (0.1 mol) of salicylaldehyde, 23 g (0.11 mol) of 5-bromopentyl acetate, 44.2 g (0.3 mol) of anhydrous, granular potassium carbonate, and 700 mL of acetonitrile was stirred and refluxed for 20 hr. After being cooled, the resulting mixture was filtered with suction and the solids were washed well with ether. The filtrate and washes were combined and concentrated in vacuo giving a yellow oil which was purified by flash chromatography on silica gel, eluting with 4:1 hexane-ether. There was obtained 10.9 g (43.6%) of 2-[[5-(acetyloxy)pentyl]oxy]benzaldehyde as an oil.

reactant | salicylaldehyde | 0.1 mol, 12.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 5-bromopentyl acetate | 0.11 mol, 23 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | 2-[[5-(acetyloxy)pentyl]oxy]benzaldehyde | 10.9 g, 43.6% | C(C)(=O)OCCCCCOC1=C(C=O)C=CC=C1 | C14H18O4
